US07015246B2
34 mg (0.09 mmol) of ethyl 2-[6-(3-isopropyl-4-methoxyphenoxy)-5,7-dimethyl-1-benzofuran-3-yl]acetate in 3 ml of dichloromethane are added, at 0° C., to 34 mg (0.26 mmol) of aluminum trichloride and 83 mg (1.3 mmol) of ethanethiol. The mixture is stirred at room temperature for 6 hours, concentrated in vacuo and purified chromatographically (toluene/ethyl acetate). 24 mg (73%) of ethyl 2-[6-(4-hydroxy-3-isopropylphenoxy)-5,7-dimethyl-1-benzofuran-3-yl]acetate are obtained.

reactant | ethyl 2-[6-(3-isopropyl-4-methoxyphenoxy)-5,7-dimethyl-1-benzofuran-3-yl]acetate | 0.09 mmol, 34 mg | C(C)(C)C=1C=C(OC2=C(C3=C(C(=CO3)CC(=O)OCC)C=C2C)C)C=CC1OC | C24H28O5
reactant | aluminum trichloride | 0.26 mmol, 34 mg | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | ethanethiol | 1.3 mmol, 83 mg | C(C)S | C2H6S
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | ethyl 2-[6-(4-hydroxy-3-isopropylphenoxy)-5,7-dimethyl-1-benzofuran-3-yl]acetate | 24 mg, 73% | OC1=C(C=C(OC2=C(C3=C(C(=CO3)CC(=O)OCC)C=C2C)C)C=C1)C(C)C | C23H26O5
